US05716756
4.1 g (10 mmol) of 1,4-bis-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethylethyl)-benzene were dissolved in 50 ml of methylene chloride, and 2.5 g (25 mmol) of triethylamine were added. 2.86 g (25 mmol) of methanesulfonyl chloride were added dropwise at 5° to 10° C. The mixture was stirred for 48 hours at room temperature, separated off from the precipitated salt, washed with water, dried and evaporated down. The residue was chromatographed over a silica gel column with methylene chloride/n-hexane (1:1). 3.2 g of 1,4-bis-(2,2,2-trifluoro-1-methanesulfonyloxy-1-trifluoromethylethyl)-benzene were obtained (colorless crystals, m.p.: 151° C. [from diisopropyl ether]).

reactant | 1,4-bis-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethylethyl)-benzene | 10 mmol, 4.1 g | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)C(C(F)(F)F)(O)C(F)(F)F)(F)F | C12H6F12O2
reactant | triethylamine | 25 mmol, 2.5 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 25 mmol, 2.86 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1,4-bis-(2,2,2-trifluoro-1-methanesulfonyloxy-1-trifluoromethylethyl)-benzene | 3.2 g | FC(C(C(F)(F)F)(OS(=O)(=O)C)C1=CC=C(C=C1)C(C(F)(F)F)(OS(=O)(=O)C)C(F)(F)F)(F)F | C14H10F12O6S2
